US07989480B2
{(S)-1-[(Acetyl-hydroxy-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester
To a solution of {(S)-1-[(Acetoxy-acetyl-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester (27 mg, 0.057 mmol, 1 eq.) in MeOH (2 ml) was added sodium methoxide (15 mg, 0.27 mmol, 4.7 eq.) until pH=10. The mixture was stirred at room temperature for 30 min. Then was poured into saturated NH4Cl solution (15 ml). The mixture was extracted with dichloromethane (3×5 ml). The combined DCM layers were washed with sodium bicarbonate solution (5 ml) and dried over anhydrous MgSO4. Removal of solvent under reduced pressure gave the desired product (20 mg, 81% yield) as an oil.

reactant | {(S)-1-[(Acetoxy-acetyl-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester | 0.057 mmol, 27 mg, 1 eq. | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CN(C(C)=O)OC(C)=O)=O | C24H29ClN2O6
reactant | sodium methoxide | 0.27 mmol, 15 mg, 4.7 eq. | C[O-].[Na+]
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | MeOH | 2 ml | CO | CH4O
product | {(S)-1-[(Acetyl-hydroxy-amino)-methyl]-2-[4-(4-chloro-phenoxy)-phenyl]-ethyl}-carbamic acid tert butyl ester | 20 mg, 81% yield | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)CN(O)C(C)=O)=O | C22H27ClN2O5
